US03930836
3-Bromopropyl methanesulfonate
A mixture containing 13.9 ml. of 3-bromo-1-propanol, 7.6 ml. of methane sulfonyl chloride and 100 ml. ether was formed. The mixture was mixed together and 14 ml. of triethylamine was added over a period of 45 minutes at 5°-10°C. and then stirred at 5°-10°C. for 1 hour. The mixture was allowed to come to room temperature and was stirred for an additional 15 minutes. To the mixture was added 100 ml. of water and the ether solution dried over magnesium sulfate and evaporated to yield 14.5 g. of a colorless oil. nD30 1.4749.

reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | ether | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-Bromopropyl methanesulfonate | CS(=O)(=O)OCCCBr | C4H9BrO3S
